US08686005B2
(R)-1-Azido-3-(4-fluoro-phenoxy)-propan-2-ol.
A mixture of (S)-1-Chloro-3-(4-fluoro-phenoxy)-propan-2-ol (5.0 g, 24.5 mmol), sodium azide (3.19 g, 49.0 mmol) and DMSO (25 mL) was stirred at 80° C. for 6 h. Then the reaction mixture was poured into water (100 mL), extracted with hexane-Et2O (1:1) mixture (2×100 mL). Extracts were washed with brine (100 mL), dried over Na2SO4 and evaporated. The residue was dried under vacuum at RT. Colorless oil, 4.83 g (22.9 mmol, 93%).

reactant | (S)-1-Chloro-3-(4-fluoro-phenoxy)-propan-2-ol | 24.5 mmol, 5.0 g | ClC[C@H](COC1=CC=C(C=C1)F)O | C9H10ClFO2
reactant | sodium azide | 49.0 mmol, 3.19 g | [N-]=[N+]=[N-].[Na+]
reactant | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | (R)-1-Azido-3-(4-fluoro-phenoxy)-propan-2-ol | N(=[N+]=[N-])C[C@H](COC1=CC=C(C=C1)F)O | C9H10FN3O2
